Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9],-7.20914407146
[H:1].[O:2]=[C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7][C:8]([H:9])[H:10],-1.3736413918
[C:9]([H:10])[H:11].[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11],-4.56671599649
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],1.49119257687
[H:1][C:2]([O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([O:3][C:4]#[C:5])[C:10]([H:11])([H:12])[H:13],4.7325077796300015
[H:1][C:2]#[C:3][H:4].[O:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-0.29928728612100003
[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-5.085637800930001
[C:6]([H:7])[H:8].[H:1][O:2][C:3](=[C:4][H:5])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-6.64478053767
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[H:11].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](/[H:7])[O:8][C:9][H:10],4.05809652134
[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-1.59237384717
[C:7]([H:8])([H:9])=[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[O:5][H:6]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.385628162
[H:1].[O:2]=[C:3]([H:4])/[C:5]=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-3.96411150462
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],5.24585337321
[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.77693799251
[C:1].[C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.96553600373
[C:9]([H:10])[O:11][H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-7.0057203372000005
[C:4]([H:5])#[C:6].[H:1][C:2]#[C:3][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.13091062822
[C:6](#[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],1.33737006097
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12],4.67505414217
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])#[C:7][H:8].[H:1][C:2]=[C:3]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],2.16184560238
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[O:9]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])=[C:8]=[O:9],2.07683460295
[H:1][C:2][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.95692976643
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:13]([H:14])([H:15])[H:16],4.81732967641
[C:1]#[C:2][C:3](=[O:4])[C:6]([H:7])([H:8])[H:9].[H:5]>>[C:1]#[C:2][C@:3]([O:4])([H:5])[C:6]([H:7])([H:8])[H:9],-0.859854579297
[C:6]([H:7])([H:8])=[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.0571070183700002
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.4203782449200002
[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:4]([H:5])([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2][H:3],5.06925703871
